US05175157
2-[(N-(2-(4-Methoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride
Prepared from 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydroisoquinoline and N-[2-(4-methoxy-phenyl)-ethyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | C1OC=2C=C3CCNC(C3=CC2O1)=O | C10H9NO3
reactant | N-[2-(4-methoxy-phenyl)-ethyl]-3-chloromethylhexahydro-azepine | COC1=CC=C(C=C1)CCN1CC(CCCC1)CCl | C16H24ClNO
product | 2-[(N-(2-(4-Methoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride | Cl.COC1=CC=C(C=C1)CCN1CC(CCCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | InChI=1S/C26H32N2O4.ClH/c1-30-22-7-5-19(6-8-22)9-12-27-11-3-2-4-20(16-27)17-28-13-10-21-14-24-25(32-18-31-24)15-23(21)26(28)29;/h5-8,14-15,20H,2-4,9-13,16-18H2,1H3;1H
